US06281355B1
N,N-Dihexyl-(4-oxo-thiochroman-2-yl)-carboxamide (1.00 g) and phenylhydrazine (0.26 ml) were stirred at 100° C. for 30 minutes, and the reaction mixture was dried under reduced pressure at 50° C. for 30 minutes. The residue, after addition of 1.44 g of anhydrous zinc chloride, was stirred at 170° C. for 5 minutes, and cooled to room temperature. To the reaction mixture was added ice water, followed by extracting with ethyl acetate. The extract was washed with 1N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give 0.79 g of N,N-dihexyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxamide.

reactant | N,N-Dihexyl-(4-oxo-thiochroman-2-yl)-carboxamide | 1.00 g | C(CCCCC)N(C(=O)C1SC2=CC=CC=C2C(C1)=O)CCCCCC | C22H33NO2S
reactant | phenylhydrazine | 0.26 ml | C1(=CC=CC=C1)NN | C6H8N2
product | N,N-dihexyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxamide | 0.79 g | C(CCCCC)N(C(=O)C1SC2=C(C=3NC4=CC=CC=C4C13)C=CC=C2)CCCCCC | C28H36N2OS
